US09212192B2
tert-butyl 4-(2-methyl-4-nitrophenyl)piperazine-1-carboxylate
A mixture of 1-bromo-2-methyl-4-nitrobenzene (5.16 g, 24 mmol), tert-butyl piperazine-1-carboxylate (4.46 g, 24 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (1.15 g, 2.4 mmol), cesium carbonate (15.65 g, 48 mmol) and tris(dibenzylideneacetone)dipalladium (2.21 g, 2.4 mmol) in 1,4-dioxane (120 mL) was heated at 100° C. for 16 hours. The solid was filtered and the filtrate was concentrated to give the crude product which was purified by flash chromatography on silica gel (200-300 mesh) eluting with 20/1 petroleum ether/ethyl acetate to give the title compound. MS: 322 (M+H+).

reactant | 1-bromo-2-methyl-4-nitrobenzene | 24 mmol, 5.16 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | tert-butyl piperazine-1-carboxylate | 24 mmol, 4.46 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 2.4 mmol, 1.15 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 48 mmol, 15.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 120 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 2.4 mmol, 2.21 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-(2-methyl-4-nitrophenyl)piperazine-1-carboxylate | CC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C16H23N3O4
